US04820839
17.0 g of 4-(5-decylpyrimidin-2-yl)-benzoic acid (prepared from 4-(5-decylpyrimidin-2-yl)-benzonitrile by saponification) and 11.1 g of 2-fluoro-4-nonylphenol are introduced into 200 ml of dichloromethane and 11.0 g of dicyclohexylcarbodiimide are added. The mixture is stirred for 4 hours at 20°, the precipitated urea is filtered off under suction, and the filtrate is concentrated to a small volume. After adsorptive filtration of the residue over silica gel using ethyl acetate as eluant, 2-fluoro-4-nonylphenyl 4-(5-decylpyrimidin-2-yl)-benzoate is obtained.

reactant | 4-(5-decylpyrimidin-2-yl)-benzoic acid | 17.0 g | C(CCCCCCCCC)C=1C=NC(=NC1)C1=CC=C(C(=O)O)C=C1 | C21H28N2O2
reactant | 2-fluoro-4-nonylphenol | 11.1 g | FC1=C(C=CC(=C1)CCCCCCCCC)O | C15H23FO
reactant | dicyclohexylcarbodiimide | 11.0 g | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
solvent | dichloromethane | 200 ml | ClCCl | CH2Cl2
product | 2-fluoro-4-nonylphenyl 4-(5-decylpyrimidin-2-yl)-benzoate | C(CCCCCCCCC)C=1C=NC(=NC1)C1=CC=C(C(=O)OC2=C(C=C(C=C2)CCCCCCCCC)F)C=C1 | C36H49FN2O2
